US04436662
Portionwise, 12.0 g (27 mmol) of lead tetraacetate were added over 2 hours to a solution of 6.0 g (12.2 mmol) of 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine in 120 ml of acetic acid. After stirring for an additional 2 hours, hydrogen sulfide gas was bubbled into the solution. The resulting precipitate was removed by filtration over Celite. The filtrate was neutralized by the addition of saturated aqueous sodium carbonate solution and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a brown oil. Purification by column chromatography (silica gel, 100 g; eluent, 100% methylene chloride to 20% ether in methylene chloride gradient) gave in the first product band an off-white solid. Recrystallization from a mixture of methylene chloride, ether, and petroleum ether gave 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-1,3-diol diacetate as colorless needles, mp 189°-190° C.

reactant | lead tetraacetate | 27 mmol, 12.0 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | 12.2 mmol, 6.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3)C=C1 | C18H12Cl2N2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-1,3-diol diacetate | C(C)(=O)OC=1NC(=C2CN=C(C3=C(C21)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl)OC(C)=O | C22H16Cl2N2O4
